US07279589B2
A four-necked flask equipped with a reflux condenser, stirrer, addition funnel and thermometer was thoroughly purged with nitrogen. In the nitrogen blanket, the flask was charged with 134.3 g (1 mol) of 1,1,3,3-tetramethyldisiloxane and 0.026 g (0.1 mmol) of RhCl3.3H2O to form a mixture. The mixture was heated to 60-70° C. and maintained at the temperature. With stirring, 148.2 g (1 mol, equimolar to 1,1,3,3-tetramethyldisiloxane) of vinyltrimethoxysilane was added dropwise to the mixture from the addition funnel over 6 to 7 hours. After the completion of dropwise addition, the reaction mixture was maintained at 60-70° C. and aged for 1 to 2 hours, driving the reaction to completion. On vacuum distillation, a product having a boiling point of 92-95° C. at 1.3 kPa was collected. The 1-(trimethoxysilyl)ethyl-1,1,3,3-tetramethyldisiloxane product was obtained in a yield of 93%. On gas chromatography analysis, the product was identified to be a mixture of two isomers, alpha-adduct:

reactant | 1,1,3,3-tetramethyldisiloxane | 1 mol, 134.3 g | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | vinyltrimethoxysilane | 1 mol, 148.2 g | C(=C)[Si](OC)(OC)OC | C5H12O3Si
product | 1-(trimethoxysilyl)ethyl-1,1,3,3-tetramethyldisiloxane | yield of 93% | CO[Si](C(C)[Si](O[SiH](C)C)(C)C)(OC)OC | C9H26O4Si3
